US04870083
To a solution of 20.0 g (150 mmole) of isonipecotic acid in 200 ml of water were added 20.0 g (190 mmole) of sodium carbonate and 37.2 g (170 mmol) of di-t-butyl dicarbonate. The suspension was stirred for 24 hours at room temperature and extracted with ether. The aqueous layer was acidified to pH≈4 with aqueous 10% hydrogen chloride and extracted with ethyl acetate. The organic layer was dried with magnesium sulfate and concentrated to yield 31.4 g of 4-carboxy-piperidine-1-carboxylic acid t-butyl ester as a white solid with melting point 146°-150° C.

reactant | isonipecotic acid | 150 mmole, 20.0 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | sodium carbonate | 190 mmole, 20.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-t-butyl dicarbonate | 170 mmol, 37.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 200 ml | O | H2O
product | 4-carboxy-piperidine-1-carboxylic acid t-butyl ester | 31.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
